US07625903B2
2-{[5-fluoro-2-({3-[(5R)-5-methyl-2-oxo-1-piperazinyl]phenyl}amino)-4-pyrimidinyl]amino}-N-(1-methylethyl)benzamide
To the suspension solution of 2-[(2-chloro-5-fluoro-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide (100 mg, 0.32 mmol) and (5R)-1-(3-aminophenyl)-5-methyl-4-(trifluoroacetyl)-2-piperazinone (147 mg, 0.48 mmol) was added 2 drops of 12N HCl. The reaction mixture was then sealed and heated in a 95° C. oil bath for 16 h. The reaction was followed by LC/MS. The reaction was evaporated to dryness. The residue was then dissolved in THF (10 mL) with LiOH (1.0 M solution 0.64 mL). The reaction mixture was heated at 50° C. for 3 h. Then the solvent was evaporated to dryness on high vacuum and the residue was loaded on silica gel column and eluted with 2.0 to 9.0% MeOH (with 0.1% NH4OH) in CH2Cl2. Oil was then recrystalized from hot EtOH to yield the pure title compound (84 mg, 55%). MS: M(C25H28FN7O2)=477.54 (M+H)+=478.

reactant | 2-[(2-chloro-5-fluoro-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide | 0.32 mmol, 100 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)NC(C)C)C=CC=C1)F | C14H14ClFN4O
reactant | (5R)-1-(3-aminophenyl)-5-methyl-4-(trifluoroacetyl)-2-piperazinone | 0.48 mmol, 147 mg | NC=1C=C(C=CC1)N1C(CN([C@@H](C1)C)C(C(F)(F)F)=O)=O | C13H14F3N3O2
catalyst | HCl | 12N, 2 drops | Cl | ClH
product | 2-{[5-fluoro-2-({3-[(5R)-5-methyl-2-oxo-1-piperazinyl]phenyl}amino)-4-pyrimidinyl]amino}-N-(1-methylethyl)benzamide | 84 mg, 55% | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)N1C(CN[C@@H](C1)C)=O)NC1=C(C(=O)NC(C)C)C=CC=C1 | C25H28FN7O2
